US08735417B2
To a solution of ethyl 1-[5-(3-aminophenyl)-1,3-thiazol-2-yl]piperidine-4-carboxylate (42 mg, 0.13 mmol) in dioxane (1.3 mL) was added 2-chloro-4-(trifluoromethyl)pyrimidine (23 mg, 1.3 mmol) and 4-methylbenzenesulfonic acid (24 mg, 0.127 mmol), resulting in the instant formation of a suspension. The mixture was heated to 100° C. and N,N-dimethylformamide (0.5 mL) was added to afford a homogenous mixture. The solution was heated at 100° C. for an additional 2 hours. Thus the mixture was the cooled to room temperature, diluted with ethyl acetate (30 mL), and washed with saturated aqueous sodium bicarbonate (30 mL) and brine (30 mL). The aqueous fractions were further extracted with ethyl acetate (30 mL). The combined organic extracts were dried over sodium sulfate and concentrated under reduced pressure. Purification by CombiFlash (30-100% ethyl acetate:hexanes) provided 22 mg (0.046 mmol, 36% yield) of ethyl 1-[5-(3-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]piperidine-4-carboxylate as a white solid.

reactant | ethyl 1-[5-(3-aminophenyl)-1,3-thiazol-2-yl]piperidine-4-carboxylate | 0.13 mmol, 42 mg | NC=1C=C(C=CC1)C1=CN=C(S1)N1CCC(CC1)C(=O)OCC | C17H21N3O2S
reactant | 2-chloro-4-(trifluoromethyl)pyrimidine | 1.3 mmol, 23 mg | ClC1=NC=CC(=N1)C(F)(F)F | C5H2ClF3N2
reactant | 4-methylbenzenesulfonic acid | 0.127 mmol, 24 mg | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
reactant | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | dioxane | 1.3 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 1-[5-(3-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]piperidine-4-carboxylate | 0.046 mmol, 22 mg, 36% yield | FC(C1=NC(=NC=C1)NC=1C=C(C=CC1)C1=CN=C(S1)N1CCC(CC1)C(=O)OCC)(F)F | C22H22F3N5O2S
